US03985751
10,11-Dihydro-5H-dibenzo[a,d]cycloheptene-10-methylamine, γmaxCHCl3 3390, 3300 cm-1, (52.3 g, 0.234 mole), is combined with δ-valerolactone (35 g, 0.35 mole). The mixture is heated for 2 hr. at 150° C (oil bath temperature). After partial cooling, ethanol (250 ml) is added followed by a solution of potassium carbonate (50 g, 0.36 mole) in water (150 ml). The two-phase mixture is stirred at 60° C overnight. The ethanol is removed under reduced pressure and the residual mixture extracted with chloroform. The chloroform solution is washed with water, dried and taken to dryness. The residue is crystallized from benzene (750 ml) -ether (ca 800 ml) affording N-[(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-10-yl)methyl]-5-hydroxyvaleramide, m.p. 96° - 98° C, γ maxCHCl3 3630, 3445, 3350, 1663 cm-1.

reactant | 10,11-Dihydro-5H-dibenzo[a,d]cycloheptene-10-methylamine | C1=CC=CC=2CC3=C(C(CC21)CN)C=CC=C3 | C16H17N
reactant | δ-valerolactone | 0.35 mole, 35 g | C1(CCCCO1)=O | C5H8O2
reactant | ethanol | 250 ml | C(C)O | C2H6O
reactant | potassium carbonate | 0.36 mole, 50 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 150 ml | O | H2O
product | N-[(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-10-yl)methyl]-5-hydroxyvaleramide | C1=CC=CC=2CC3=C(C(CC21)CNC(CCCCO)=O)C=CC=C3 | C21H25NO2
